US05407943
A. 7-(1-tert-Butoxycarbonylamino-6-azaspiro[2.5]oct-6-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carbOxylic acid, ethyl ester
A solution of 1-tert-butoxycarbonylamino-6-azaspiro[2.5]octane (250 mg, 1.11 mmol), the ethyl ester of 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (382 mg, 1.00 mmol) and triethylamine (0.78 ml, 5.55 mmol) in acetonitrile (15 ml) was heated at reflux overnight. Solvent was removed in vacuo and the residue was chromatographed on silica gel (eluents: 50% ethyl acetate/hexane, then 5:5:1 ethyl acetate/hexane/methanol) to afford the title product as an off-white solid (494 mg, 0.86 mmol, yield 86%).

reactant | 1-tert-butoxycarbonylamino-6-azaspiro[2.5]octane | 1.11 mmol, 250 mg | C(C)(C)(C)OC(=O)NC1CC12CCNCC2 | C12H22N2O2
reactant | 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.00 mmol, 382 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C15H6ClF3N2O3
reactant | triethylamine | 5.55 mmol, 0.78 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl acetate hexane methanol | C(C)(=O)OCC.CCCCCC.CO
product | 7-(1-tert-Butoxycarbonylamino-6-azaspiro[2.5]oct-6-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carbOxylic acid, ethyl ester | 0.86 mmol, 494 mg, yield 86% | C(C)(C)(C)OC(=O)NC1CC12CCN(CC2)C2=C(C=C1C(C(=CN(C1=N2)C2=C(C=C(C=C2)F)F)C(=O)OCC)=O)F | C29H31F3N4O5
